US04478833
8-Benzylthio-2-(2-morpholinoethyl-amino)-4-(1-oxidothiomorpholino)-pyrimido[5,4-d]pyrimidine
This compound was prepared analogous to Example 1 from 8-benzylthio-2-chloro-4-(1-oxido-thiomorpholino)pyrimido[5,4-d]pyrimidine and 2-morpholinoethyl-amine.

reactant | 8-benzylthio-2-chloro-4-(1-oxido-thiomorpholino)pyrimido[5,4-d]pyrimidine | C(C1=CC=CC=C1)SC1=NC=NC2=C1N=C(N=C2N2CCS(CC2)=O)Cl | C17H16ClN5OS2
reactant | 2-morpholinoethyl-amine | O1CCN(CC1)CCN | C6H14N2O
product | 8-Benzylthio-2-(2-morpholinoethyl-amino)-4-(1-oxidothiomorpholino)-pyrimido[5,4-d]pyrimidine | C(C1=CC=CC=C1)SC1=NC=NC2=C1N=C(N=C2N2CCS(CC2)=O)NCCN2CCOCC2 | C23H29N7O2S2
